US07326791B2
4-[(2S)-2-(2-acetylaminoethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide
Prepared analogously to Example 124 from 4-[(2S)-2-(2-aminoethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide and acetic anhydride in glacial acetic acid. Yield: 67%; Rf value: 0.32 (Reversed phase RP 8; methanol:5% sodium chloride solution=6:4); C25H27Cl2N5O3 (516.43); mass spectrum: (M+H)+=516/518/520 (chlorine isotope).

reactant | 4-[(2S)-2-(2-aminoethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide | NCC[C@H]1N(CCC1)C(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C23H25Cl2N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium chloride | [Cl-].[Na+]
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 4-[(2S)-2-(2-acetylaminoethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide | Yield: 67% | C(C)(=O)NCC[C@H]1N(CCC1)C(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C25H27Cl2N5O3
